US08440673B2
3-(2-Cyclopropylmethyl-2H-pyrazol-3-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester (1.14 g, 3.27 mmol was dissolved in 20 mL MeOH, and 3N aqueous NaOH (3 mL) was added. The reaction mixture was stirred at room temperature for three hours, then concentrated under reduced pressure. The residue was acidified to pH 3 and extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure to give 0.9 g of 3-(2-cyclopropylmethyl-2H-pyrazol-3-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid, MS (M+H)=334.

reactant | 3-(2-Cyclopropylmethyl-2H-pyrazol-3-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)C1=NC=C(C=C1)C)C=1N(N=CC1)CC1CC1)=O | C21H21N3O2
reactant | NaOH | 3N, 3 mL | [OH-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | 3-(2-cyclopropylmethyl-2H-pyrazol-3-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid | 0.9 g | C1(CC1)CN1N=CC=C1C=1C=C(C(=O)O)C=C(C1)C1=NC=C(C=C1)C | C20H19N3O2
